US08334301B2
N-methyl-1-[2-phenyl-1-(pyrimidin-2-yl)-1H-imidazol-4-yl]methanamine dihydrochloride
To a solution of 2-phenyl-1-pyrimidin-2-yl-1H-imidazole-4-carbaldehyde (150 mg) in methanol (15 mL) was added 40% methylamine-methanol solution (233 mg) and the mixture was stirred for 10 min. Sodium borohydride (68 mg) was added and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid was added to the reaction mixture and the mixture was stirred for 30 min. The mixture was neutralized with saturated sodium hydrogen carbonate solution, and extracted with tetrahydrofuran. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent:ethyl acetate-methanol=19:1→7:3) and dissolved in methanol (5 mL). A 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added, and the mixture was concentrated under reduced pressure. Tetrahydrofuran was added to the residue, and insoluble materials were collected by filtration to give the title compound as a colorless powder (yield 55 mg, yield 27%).

reactant | 2-phenyl-1-pyrimidin-2-yl-1H-imidazole-4-carbaldehyde | 150 mg | C1(=CC=CC=C1)C=1N(C=C(N1)C=O)C1=NC=CC=N1 | C14H10N4O
reactant | methylamine methanol | 233 mg | CN.CO
reactant | Sodium borohydride | 68 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | N-methyl-1-[2-phenyl-1-(pyrimidin-2-yl)-1H-imidazol-4-yl]methanamine dihydrochloride | yield 55 mg, yield 27% | Cl.Cl.CNCC=1N=C(N(C1)C1=NC=CC=N1)C1=CC=CC=C1 | InChI=1S/C15H15N5.2ClH/c1-16-10-13-11-20(15-17-8-5-9-18-15)14(19-13)12-6-3-2-4-7-12;;/h2-9,11,16H,10H2,1H3;2*1H
